datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"Cc1cc(N)cc[n+]1[O-:10].O=P([O-])(C([NH2+]Cc1cccnc1)c1ccccc1O)[O:21][H:20]>>Cc1cc(N)cc[n+]1[O:10][H:20].O=P([O-])(C([NH2+]Cc1cccnc1)c1ccccc1O)[O-:21] 10=20;20,21=21",
"COc1cc(N)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N:10]3Cc2ccccc2)c1OC.c1ccc2c([NH2+:21][H:20])cccc2c1>>COc1cc(N)cc(C(=O)N[C@@H]2C[C@H]3CC[C@@H](C2)[N+:10]3(Cc2ccccc2)[H:20])c1OC.c1ccc2c([NH2:21])cccc2c1 10=20;20,21=21",
"CC1NCCc2c1[n-:10]c1ccc([N+](=O)[O-])cc21.C[NH+]1CCCC1c1c[n+:21]([H:20])cc2[nH]c3ccccc3c12>>CC1NCCc2c1[n:10]([H:20])c1ccc([N+](=O)[O-])cc21.C[NH+]1CCCC1c1c[n:21]cc2[nH]c3ccccc3c12 10=20;20,21=21",
"NS(=O)(=O)c1cccc(C[NH2:10])c1.[O-]c1ccccc1[O:21][H:20]>>NS(=O)(=O)c1cccc(C[NH2+:10][H:20])c1.[O-]c1ccccc1[O-:21] 10=20;20,21=21",
"C=CCC(=O)[O-:10].ClCC1CC2CC[N+:21]1([H:20])CC2>>C=CCC(=O)[O:10][H:20].ClCC1CC2CC[N:21]1CC2 10=20;20,21=21",
"CC[Se](=O)[O-:10].Nc1ccc2ccc[n+:21]([H:20])c2c1>>CC[Se](=O)[O:10][H:20].Nc1ccc2ccc[n:21]c2c1 10=20;20,21=21",
"C[S+:21](C)[H:20].O=C1C[C@H](C(=O)[O-:10])[C@@H](C(=O)[O-])O1>>C[S:21]C.O=C1C[C@H](C(=O)[O:10][H:20])[C@@H](C(=O)[O-])O1 10=20;20,21=21",
"CCC[NH:10]CC(=O)[O-].O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>CCC[NH+:10](CC(=O)[O-])[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"NC1CC[NH:10]CC1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>NC1CC[NH+:10]([H:20])CC1.O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"CCCC[N:10](CC(C)O)CC(C)O.Cc1ncsc1C(=O)[O:21][H:20]>>CCCC[N+:10](CC(C)O)(CC(C)O)[H:20].Cc1ncsc1C(=O)[O-:21] 10=20;20,21=21",
"CCC(NO)=[N+:21](O)[H:20].CN(C)/C=[N:10]\c1ccccc1>>CCC(NO)=[N:21]O.CN(C)/C=[N+:10](\c1ccccc1)[H:20] 10=20;20,21=21",
"C=CCc1ccccc1OCC(O)C[NH:10]C(C)C.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>C=CCc1ccccc1OCC(O)C[NH+:10](C(C)C)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"CC(C[NH2:10])c1ccccc1.O=C(c1ccccc1/N=C/C=C/c1ccccc1)[O:21][H:20]>>CC(C[NH2+:10][H:20])c1ccccc1.O=C(c1ccccc1/N=C/C=C/c1ccccc1)[O-:21] 10=20;20,21=21",
"CCN(CC)C(=S)[N:21](C(=O)c1ccc(F)cc1)[H:20].CCOc1ccccc1[NH2:10]>>CCN(CC)C(=S)[N-:21]C(=O)c1ccc(F)cc1.CCOc1ccccc1[NH2+:10][H:20] 10=20;20,21=21",
"CC[N+:21](CC)(Cc1cccc(C)c1[O-])[H:20].C[NH+](C)CCC[NH2:10]>>CC[N:21](CC)Cc1cccc(C)c1[O-].C[NH+](C)CCC[NH2+:10][H:20] 10=20;20,21=21",
"CCOC(=O)c1cc(C)[n+]([O-:10])c(C)c1.[NH3+][C@H]1CCCC[C@@H]1C(=O)[O:21][H:20]>>CCOC(=O)c1cc(C)[n+]([O:10][H:20])c(C)c1.[NH3+][C@H]1CCCC[C@@H]1C(=O)[O-:21] 10=20;20,21=21",
"CC[NH2+]C(C)C(=O)[O-:10].Cc1cccc(CCCCCCCC(=O)[O:21][H:20])[nH+]1>>CC[NH2+]C(C)C(=O)[O:10][H:20].Cc1cccc(CCCCCCCC(=O)[O-:21])[nH+]1 10=20;20,21=21",
"CC1(C)CC(NCCO)CC(C)(C)[NH:10]1.Cn1cnc2nc[n+:21]([H:20])c([O-])c21>>CC1(C)CC(NCCO)CC(C)(C)[NH+:10]1[H:20].Cn1cnc2nc[n:21]c([O-])c21 10=20;20,21=21",
"CN1CCCCC1c1ccc[n:10]c1.Cc1c[n+:21]([H:20])ccc1N>>CN1CCCCC1c1ccc[n+:10]([H:20])c1.Cc1c[n:21]ccc1N 10=20;20,21=21",
"C=CCC1(C2=CCCCC2)C(=O)NC(=S)[N:21]([H:20])C1=O.CC(C)[NH+]1CCC(N[NH2:10])CC1>>C=CCC1(C2=CCCCC2)C(=O)NC(=S)[N-:21]C1=O.CC(C)[NH+]1CCC(N[NH2+:10][H:20])CC1 10=20;20,21=21",
"Cc1n[n:10]c2c(c1C)CCCC2.O=C(C[N+:21]1([H:20])CCOCC1)c1ccccc1>>Cc1n[n+:10]([H:20])c2c(c1C)CCCC2.O=C(C[N:21]1CCOCC1)c1ccccc1 10=20;20,21=21",
"CCOC(=O)c1cc(C)[n+]([O-:10])c(C)c1.[NH3+]C(Cn1cccn1)C(=O)[O:21][H:20]>>CCOC(=O)c1cc(C)[n+]([O:10][H:20])c(C)c1.[NH3+]C(Cn1cccn1)C(=O)[O-:21] 10=20;20,21=21",
"CC(O)C[N:10](CC(C)O)C(C)(C)C.COc1ccc(O)c(C[NH2+]C(CO)C(=O)[O:21][H:20])c1>>CC(O)C[N+:10](CC(C)O)(C(C)(C)C)[H:20].COc1ccc(O)c(C[NH2+]C(CO)C(=O)[O-:21])c1 10=20;20,21=21",
"C[C@@H]1CC[C@H]2CC[C@H](C)[N:10]21.[NH3+]CCC(=O)NC(Cc1c[n+:21]([H:20])c[nH]1)C(=O)[O-]>>C[C@@H]1CC[C@H]2CC[C@H](C)[N+:10]21[H:20].[NH3+]CCC(=O)NC(Cc1c[n:21]c[nH]1)C(=O)[O-] 10=20;20,21=21",
"CO[N:21](C1=CC(=O)N(C)C(=O)N1C)[H:20].O=C([O-])/C=C\c1ccccc1[O-:10]>>CO[N-:21]C1=CC(=O)N(C)C(=O)N1C.O=C([O-])/C=C\c1ccccc1[O:10][H:20] 10=20;20,21=21",
"Clc1cc(Cl)c[n+:21]([H:20])c1.ON=C1CCCC/C1=N\[O-:10]>>Clc1cc(Cl)c[n:21]c1.ON=C1CCCC/C1=N\[O:10][H:20] 10=20;20,21=21",
"CCCCCC/C=N/[O-:10].[NH3+]CCC(=O)NC(Cc1c[nH]c[nH+]1)C(=O)[O:21][H:20]>>CCCCCC/C=N/[O:10][H:20].[NH3+]CCC(=O)NC(Cc1c[nH]c[nH+]1)C(=O)[O-:21] 10=20;20,21=21",
"CC(Cl)C[N:10](C)C.O=C([O-])c1cc([N+](=O)[O-])ccc1[O:21][H:20]>>CC(Cl)C[N+:10](C)(C)[H:20].O=C([O-])c1cc([N+](=O)[O-])ccc1[O-:21] 10=20;20,21=21",
"C#CC(C)(C)[NH+:21](C(C)(C)C#C)[H:20].O=Cc1ccccc1C(=O)[O-:10]>>C#CC(C)(C)[NH:21]C(C)(C)C#C.O=Cc1ccccc1C(=O)[O:10][H:20] 10=20;20,21=21",
"CC(O)[O:21][H:20].CC[N:10](CC)CC(=O)NCc1ccccc1>>CC(O)[O-:21].CC[N+:10](CC)(CC(=O)NCc1ccccc1)[H:20] 10=20;20,21=21",
"CS(=O)c1cccc([O:21][H:20])c1.N#CCC(C(=O)[O-:10])c1ccccc1>>CS(=O)c1cccc([O-:21])c1.N#CCC(C(=O)[O:10][H:20])c1ccccc1 10=20;20,21=21",
"CC[NH:10]N.NC(=O)C[C@H](NC(=O)[C@@H](N)C[S:21][H:20])C(=O)O>>CC[NH+:10](N)[H:20].NC(=O)C[C@H](NC(=O)[C@@H](N)C[S-:21])C(=O)O 10=20;20,21=21",
"CC(P)C(=O)[O-:10].Cc1ccnc2c([O:21][H:20])cccc12>>CC(P)C(=O)[O:10][H:20].Cc1ccnc2c([O-:21])cccc12 10=20;20,21=21",
"C#CC(=O)[O:21][H:20].C[n+]1nc([O-:10])ccc1[O-]>>C#CC(=O)[O-:21].C[n+]1nc([O:10][H:20])ccc1[O-] 10=20;20,21=21",
